US07166746B2
e) 2-(4–Chlorophenyl)-N-(4′-hydroxy-3′-methoxy-biphenyl-2-yl)-2-prop-2-ynyloxy-acetamide
A solution of 10.2 g (15.5 mmol) N-[4′-(tert-butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-yl]-2-(4-chlorophenyl)-2-prop-2-ynyloxy-acetamide and 24.5 g (77.5 mmol) tetrabutylammonium fluoride in 200 ml of dichloromethane is stirred for 4 hours at room temperature. After extracting with water/ethyl acetate and evaporation of the organic phase, the residue is subjected to flash-chromatography (ethyl acetate/hexane 4:6). Yield: 2-(4-chlorophenyl)-N-(4′-hydroxy-3′-methoxy-biphenyl-2-yl)-2-prop-2-ynyloxy-acetamide, m.p. 140–142° C.

reactant | N-[4′-(tert-butyl-diphenyl-silanyloxy)-3′-methoxy-biphenyl-2-yl]-2-(4-chlorophenyl)-2-prop-2-ynyloxy-acetamide | 15.5 mmol, 10.2 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1)C1=C(C=CC=C1)NC(C(OCC#C)C1=CC=C(C=C1)Cl)=O)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H38ClNO4Si
reactant | tetrabutylammonium fluoride | 77.5 mmol, 24.5 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(4–Chlorophenyl)-N-(4′-hydroxy-3′-methoxy-biphenyl-2-yl)-2-prop-2-ynyloxy-acetamide | ClC1=CC=C(C=C1)C(C(=O)NC1=C(C=CC=C1)C1=CC(=C(C=C1)O)OC)OCC#C | C24H20ClNO4
